US06008234
To a solution of 4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-2,3,5,6-tetrafluoropyridine (0.89 g, 2.8 mmol) in acetonitrile (30 mL) was added 2-benzyloxy-5-cyanophenol (0.63 g, 2.8 mmol) and cesium carbonate (1.2 g, 3.6 mmol). The resultant mixture was stirred at 60° C. for 1 day. The mixture was then cooled to ambient temperature and poured into 100 mL of water and 100 mL of ethyl acetate. The aqueous layer was separated and extracted with another 100 mL of ethyl acetate. The combined organic extracts were washed with 1 M aqueous KOH solution (100 mL), brine (100 mL), dried over MgSO4, filtered, and concentrated in vacuo to afford a yellow oil. Purification by flash chromatography on silica gel afforded 0.87 g (60% yield) of 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile, a compound of formula (G), as a clear, colorless oil: NMR (CDCl3) 7.6-7.1 (m, 8), 5.2 (s, 2), 4.2 (q, 2), 3.1 (s, 3), 2.3-1.6 (m, 8), 1.3 (t, 3) ppm.

reactant | 4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-2,3,5,6-tetrafluoropyridine | 2.8 mmol, 0.89 g | CN(C1(CCCC1)C(=O)OCC)C1=C(C(=NC(=C1F)F)F)F | C14H16F4N2O2
reactant | 2-benzyloxy-5-cyanophenol | 2.8 mmol, 0.63 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)O | C14H11NO2
reactant | cesium carbonate | 3.6 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile | 0.87 g, 60% yield | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC1=NC(=C(C(=C1F)N(C1(CCCC1)C(=O)OCC)C)F)F | C28H26F3N3O4
